US07781440B2
2.2 3-Methyl-9-(2-oxo-2-phenyl-ethyl)-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
A solution containing 0.608 g (2.5 mmol) of 3-methyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one in anhydrous dimethylformamide was treated with 0.11 g (2.5 mmol) of sodium hydride (60% suspension in mineral oil) and the mixture warmed to 40° C. during 1 h. 0.497 g (2.5 mmol) of phenacyl bromide dissolved in 5 ml of dimethylformamide was added dropwise and the resulting solution stirred at room temperature for 3 h. The reaction mixture was treated with a saturated aqueous solution of sodium chloride and then extracted with ethyl acetate. The organic extracts were dried and evaporated to give a crude product, which was purified by chromatography on silica gel eluting with dichloromethane/methanol/ammonia in the proportions 100/0/0 to 98/2/0.2. A pure product was obtained which was triturated in diethylether to give 0.309 g (34%) of yellow solid. Mp.: 184-185° C.

reactant | 3-methyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 2.5 mmol, 0.608 g | CC1=C(N=C2N(C1=O)CCCN2)C2=NC=NC=C2 | C12H13N5O
reactant | sodium hydride | 2.5 mmol, 0.11 g | [H-].[Na+]
reactant | phenacyl bromide | 2.5 mmol, 0.497 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-9-(2-oxo-2-phenyl-ethyl)-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.309 g, 34% | CC1=C(N=C2N(C1=O)CCCN2CC(C2=CC=CC=C2)=O)C2=NC=NC=C2 | C20H19N5O2
